US05360800
2,3,4,5-Tetrahydro-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido-[4,3-b]indol-1-one maleate
A suspension of 2,3,4,5-tetrahydro-2-[(5-methyl-1H-imidazol-4-yl)-methyl]-5-[phenyl(methoxymethyl)]-1H-pyrido[4,3-b]indol-1-one (400 mg) in ethanol (20 ml) and glacial acetic acid (5 ml) was hydrogenated overnight at room temperature and atmospheric pressure over a pre-reduced 10% palladium oxide on carbon catalyst (50% aqueous paste; 100 mg). The reaction mixture was filtered and the residue was washed with ethanol (100 ml). The filtrate was concentrated in vacuo to give an oil, to which was added 2N sodium hydroxide (50 ml). The resulting suspension was extracted with dichloromethane (2×50 ml) and the combined, dried organic extracts were evaporated to give a solid. This was purified by FCC eluting with System A (75:8:1) to give the free base of the title compound as a solid (240 mg) which was then dissolved in dry methanol (50 ml). Maleate formation gave the title compound (261 mg), t.l.c. (System A, 75:8:1) Rf 0.2

reactant | 2,3,4,5-tetrahydro-2-[(5-methyl-1H-imidazol-4-yl)-methyl]-5-[phenyl(methoxymethyl)]-1H-pyrido[4,3-b]indol-1-one | 400 mg | CC1=C(N=CN1)CN1C(C2=C(N(C=3C=CC=CC23)C(OC)C2=CC=CC=C2)CC1)=O | C24H24N4O2
reactant | sodium hydroxide | 2N, 50 ml | [OH-].[Na+]
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium oxide | [Pd]=O
product | 2,3,4,5-Tetrahydro-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido-[4,3-b]indol-1-one maleate | 240 mg | C(\C=C/C(=O)O)(=O)O.CC1=C(N=CN1)CN1C(C2=C(NC=3C=CC=CC23)CC1)=O | InChI=1S/C16H16N4O.C4H4O4/c1-10-14(18-9-17-10)8-20-7-6-13-15(16(20)21)11-4-2-3-5-12(11)19-13;5-3(6)1-2-4(7)8/h2-5,9,19H,6-8H2,1H3,(H,17,18);1-2H,(H,5,6)(H,7,8)/b;2-1-
